US06037356
5. 3-Benzylsulfonylamino-6-methyl-1-carboxymethyl-2-pyridinone
HCl gas was bubbled through a stirred suspension of 3-benzylsulfonylamino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone (1.4 g, 3.57 mmol), as prepared in the preceding step, in ethyl acetate (15 mL) at 0° C. until a solution was formed. After 2 h at room temperature, a thick suspension was formed. The mixture was degassed with nitrogen and filtered to give the title compound a white solid (1.1 g, 92%). 1H-NMR (300 MHz, CDCl3) δ8.67 (s, 1H), 7.34 (m, 5H), 7.12 (d, J=7.5 Hz, 1H), 6.10 (d, J=7.6 Hz, 1H), 4.78 (s, 2H), 4.51 (s, 2H), 2.26 (s, 3H).

reactant | HCl | Cl | ClH
reactant | 3-benzylsulfonylamino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 3.57 mmol, 1.4 g | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C19H24N2O5S
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-Benzylsulfonylamino-6-methyl-1-carboxymethyl-2-pyridinone | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H16N2O5S
